datasets/RMG-dataset.csv
rxn,Ea
[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])=[C:4]([C:5]([H:11])([H:12])[H:13])[C:6]([H:14])([H:15])[H:16])[H:7].[C:17](=[C:18]([C:19]([C:20](=[C:21]([H:27])[H:28])[H:26])[H:25])[H:24])([H:22])[H:23]>>[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])[C:4]([C:5]([H:11])([H:12])[H:13])([C:6]([H:14])([H:15])[H:16])[C:19]([C:18](=[C:17]([H:22])[H:23])[H:24])([C:20](=[C:21]([H:27])[H:28])[H:26])[H:25])[H:7],64.9775
[C:0]1([H:9])=[C:1]([H:10])[c:2]2[c:3]([H:11])[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]2[C:8]1([H:15])[H:16].[O:17][O:18]>>[C:0]1([H:9])=[C:1]([H:10])[c:2]2[c:3]([H:11])[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]2[C:8]1[H:16].[H:15][O:17][O:18],155.439784
[C:0](=[C:1]([C:2](=[S:3])[H:7])[H:6])([H:4])[H:5].[C:8]([C:9]([C:10]([H:15])([H:16])[H:17])[S:11][H:18])([H:12])([H:13])[H:14]>>[C:0](=[C:1][C:2](=[S:3])[H:7])([H:4])[H:5].[H:6][C:9]([C:8]([H:12])([H:13])[H:14])([C:10]([H:15])([H:16])[H:17])[S:11][H:18],74.015
[C:0](=[S:1])([H:2])[H:3].[C:4]([S:5])([H:6])([H:7])[H:8]>>[C:0]([S:1][S:5][C:4]([H:6])([H:7])[H:8])([H:2])[H:3],-14.2256
[C:0](=[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])=[C:4]([C:5]([H:13])([H:14])[H:15])[C:6]([H:16])([H:17])[H:18])[H:9])([H:7])[H:8].[C:19]([H:20])([H:21])[H:22]>>[C:0](=[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([C:4]([C:5]([H:13])([H:14])[H:15])[C:6]([H:16])([H:17])[H:18])[C:19]([H:20])([H:21])[H:22])[H:9])([H:7])[H:8],31.0871
[N:0]([O:1][H:4])([H:2])[H:3].[N:5][H:6]>>[H:2][N:5][H:6].[N:0]([O:1][H:4])[H:3],6.543776
[C:0]([c:1]1[c:2]([H:12])[c:3]([H:13])[c:4]([C:5](=[O:6])[H:14])[c:7]([H:15])[c:8]1[H:16])([H:9])([H:10])[H:11]>>[C:0]([c:1]1[c:2]([H:12])[c:3]([H:13])[c:4]([C:5](=[O:6])[H:14])[c:7]([H:15])[c:8]1[H:16])([H:10])[H:11].[H:9],396.588808
[C:0]([C:1]([C:2]([H:7])([H:8])[H:9])=[O:3])([H:4])([H:5])[H:6].[O:10]>>[C:0]([C:1]([C:2]([H:7])([H:8])[H:9])=[O:3])([H:5])[H:6].[H:4][O:10],20.45976
[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])[C:4]([H:11])([H:12])[H:13])[H:7])([H:5])[H:6].[C:14]([C:15](=[C:16]([c:17]1[c:18]([H:33])[c:19]([H:34])[c:20]([H:35])[c:21]([H:36])[c:22]1[H:37])[H:32])[c:23]1[c:24]([H:38])[c:25]([H:39])[c:26]([H:40])[c:27]([H:41])[c:28]1[H:42])([H:29])([H:30])[H:31]>>[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])([C:4]([H:11])([H:12])[H:13])[C:16]([C:15]([C:14]([H:29])([H:30])[H:31])[c:23]1[c:24]([H:38])[c:25]([H:39])[c:26]([H:40])[c:27]([H:41])[c:28]1[H:42])([c:17]1[c:18]([H:33])[c:19]([H:34])[c:20]([H:35])[c:21]([H:36])[c:22]1[H:37])[H:32])[H:7])([H:5])[H:6],50.6264
[C:0](#[C:1][C:2]([C:3]([H:9])([H:10])[H:11])=[C:4]([C:5]([H:12])([H:13])[H:14])[C:6](=[C:7]([H:16])[H:17])[H:15])[H:8].[C:18](#[C:19][C:20]([H:22])[H:23])[H:21]>>[C:0](#[C:1][C:2]([C:3]([H:9])([H:10])[H:11])([C:4]([C:5]([H:12])([H:13])[H:14])[C:6](=[C:7]([H:16])[H:17])[H:15])[C:20]([C:19]#[C:18][H:21])([H:22])[H:23])[H:8],33.8904
[O:0]=[C:1]([C:2](=[C:3]([O:4][H:8])[H:7])[H:6])[H:5].[O:9][O:10]>>[H:5][O:9][O:10].[O:0]=[C:1][C:2](=[C:3]([O:4][H:8])[H:7])[H:6],170.2888
[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])[S:4][H:11])[H:7])([H:5])[H:6].[S:12]([C:13]([c:14]1[c:15]([H:23])[c:16]([H:24])[c:17]([H:25])[c:18]([H:26])[c:19]1[H:27])([H:21])[H:22])[H:20]>>[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])([S:4][H:11])[H:21])[H:7])([H:5])[H:6].[S:12]([C:13]([c:14]1[c:15]([H:23])[c:16]([H:24])[c:17]([H:25])[c:18]([H:26])[c:19]1[H:27])[H:22])[H:20],28.4512
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([H:6])[H:7])([H:3])([H:4])[H:5].[C:11]([C:12]([H:15])([H:16])[H:17])([H:13])[H:14]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([H:6])[H:7])([H:4])[H:5].[H:3][C:11]([C:12]([H:15])([H:16])[H:17])([H:13])[H:14],43.5136
[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])([C:3](=[S:4])[H:12])[H:8])([H:5])([H:6])[H:7].[C:13]([c:14]1[c:15]([H:22])[c:16]([H:23])[c:17]([H:24])[c:18]([H:25])[c:19]1[H:26])([H:20])[H:21]>>[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])[C:3](=[S:4])[H:12])([H:5])([H:6])[H:7].[H:8][C:13]([c:14]1[c:15]([H:22])[c:16]([H:23])[c:17]([H:24])[c:18]([H:25])[c:19]1[H:26])([H:20])[H:21],63.3123
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:17])[H:18])[H:16])=[C:5]([C:6]([H:19])([H:20])[H:21])[c:7]1[c:8]([H:22])[c:9]([H:23])[c:10]([H:24])[c:11]([H:25])[c:12]1[H:26])[H:15])([H:13])[H:14].[C:27](=[C:28][C:29]([H:32])([H:33])[H:34])([H:30])[H:31]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:17])[H:18])[H:16])([C:5]([C:6]([H:19])([H:20])[H:21])[c:7]1[c:8]([H:22])[c:9]([H:23])[c:10]([H:24])[c:11]([H:25])[c:12]1[H:26])[C:28](=[C:27]([H:30])[H:31])[C:29]([H:32])([H:33])[H:34])[H:15])([H:13])[H:14],10.9621
[C:0]([S:1][S:2][H:5])([H:3])[H:4]>>[C:0]1([H:3])([H:4])[S:1][S:2]1.[H:5],167.778
[C:0](#[C:1][C:2]([C:3]([H:9])([H:10])[H:11])=[C:4]([C:5]([H:12])([H:13])[H:14])[C:6]#[C:7][H:15])[H:8].[C:16](=[C:17]([C:18]([C:19]([H:24])([H:25])[H:26])[C:20]([H:27])([H:28])[H:29])[H:23])([H:21])[H:22]>>[C:0](#[C:1][C:2]([C:3]([H:9])([H:10])[H:11])([C:4]([C:5]([H:12])([H:13])[H:14])[C:6]#[C:7][H:15])[C:18]([C:17](=[C:16]([H:21])[H:22])[H:23])([C:19]([H:24])([H:25])[H:26])[C:20]([H:27])([H:28])[H:29])[H:8],40.3338
